US06022492
Synthesis of 5-(4-benzyloxy-2,3-difluorophenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine
The reaction of 6 mmol of 5-bromo-2-(6-dodecyloxypyridin-3-yl)pyrimidine, 6 mmol of 4-benzyloxy-2,3-difluorophenylboronic acid, 12 mmol of sodium carbonate 0.06 mmol of bis(dibenzylideneacetone)palladium(0) and 0.12 mmol of triphenylphosphine in 50 ml of toluene, 25 ml of ethanol and 25 ml of water is carried out analogously to the procedure indicated for Example 1a). Corresponding chromatographic purification gives 1.4 g (42%) of a colorless solid, m.p. 115° C., cl.p. 172° C.

reactant | 5-bromo-2-(6-dodecyloxypyridin-3-yl)pyrimidine | 6 mmol | BrC=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCCCCCCCC | C21H30BrN3O
reactant | 4-benzyloxy-2,3-difluorophenylboronic acid | 6 mmol | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)B(O)O)F)F | C13H11BF2O3
reactant | sodium carbonate | 12 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
catalyst | bis(dibenzylideneacetone)palladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | triphenylphosphine | 0.12 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 5-(4-benzyloxy-2,3-difluorophenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine | 1.4 g, 42% | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)C=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCC)F)F | C28H27F2N3O2
